data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(C)c(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "COc1cc(C)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "COc1cc(C)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "COc1cc(C)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cc(C)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cc(C)c2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1c(C)cc(NN=CCc2ccccc2)cc1F.Cl[Zn]Cl", "products": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F"}, {"reactants": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F.[H+]"}, {"reactants": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2F)C(=N)C=C1", "products": "COc1c(F)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C"}, {"reactants": "COc1c(F)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C", "products": "COc1c(F)cc2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(F)cc2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(F)cc2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(F)cc2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(F)cc2c(c1C)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(F)cc2c(c1C)C(c1ccccc1)C=[NH+]2", "products": "COc1c(F)cc2[nH]cc(-c3ccccc3)c2c1C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1cc(F)cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(F)cc(F)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(F)cc(F)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)cc(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)cc(F)c1", "products": "O=C1CCN2C[C@H](OCc3cc(F)cc(F)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [], "steps": [{"reactants": "[H][C@@]1(C=C)CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)C)cc21", "products": "[H][C@@]1(C=C)CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)cc1=C"}, {"reactants": "[H][C@@]1(C=C)CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)cc1=C", "products": "[H][C@@]12CCC(=O)[C@@]1(C)CC[C@]1([H])c3cc([Si](C)(C)C)c([Si](C)(C)C)cc3CC[C@@]21[H]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(CC)CCl)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CC)CCl)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CC)CCl)c([Si](C)(C)C)cc1=C", "products": "CC[Si](C)(CCl)c1cc2c(cc1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(OC)c(OC)cc1NN=CCc1ccccc1.Cl[Zn]Cl", "products": "COc1cc(OC)c(OC)cc1N[N+](=CCc1ccccc1)[Zn-]([Cl])[Cl]"}, {"reactants": "COc1cc(OC)c(OC)cc1N[N+](=CCc1ccccc1)[Zn-]([Cl])[Cl]", "products": "COc1cc(OC)c(OC)cc1N[N](C=Cc1ccccc1)[Zn-]([Cl])[Cl].[H+]"}, {"reactants": "COc1cc(OC)c(OC)cc1N[N](C=Cc1ccccc1)[Zn-]([Cl])[Cl]", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(OC)ccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(OC)ccc2OC)C(=N)C=C1", "products": "COc1cc(OC)c(OC)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N"}, {"reactants": "COc1cc(OC)c(OC)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N", "products": "COc1cc(OC)c(OC)c2c1[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc(OC)c(OC)c2c1[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc(OC)c(OC)c2c1NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc(OC)c(OC)c2c1NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc(OC)c(OC)c2c1[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(OC)c(OC)c2c1[NH+]=CC2c1ccccc1", "products": "COc1cc(OC)c2[nH]cc(-c3ccccc3)c2c1OC.[H+]"}]}
